US09227978B2
Methyl 4-chloro-5-iodo-2-methoxybenzoate
A mixture of 4-chloro-5-iodo-2-methoxybenzoic acid (2 g, 6.41 mmol) concentrated sulfuric acid (1.5 mL) in MeOH (50 mL) was stirred at reflux for 16 h. The mixture was allowed to cool to room temperature and partitioned between water and ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo to afford the desired product (1.85 g, 85% yield) as a yellow oil.

reactant | 4-chloro-5-iodo-2-methoxybenzoic acid | 6.41 mmol, 1.5 mL, 2 g | ClC1=CC(=C(C(=O)O)C=C1I)OC | C8H6ClIO3
reactant | MeOH | 50 mL | CO | CH4O
product | Methyl 4-chloro-5-iodo-2-methoxybenzoate | 1.85 g, 85% yield | ClC1=CC(=C(C(=O)OC)C=C1I)OC | C9H8ClIO3
